US07781463B2
4-(4-Chlorophenyl)-2-methyl-1,2,4-thiadiazolidine-3,5-dione (Compound 18)
Reagents: 4-Chlorophenyl isothiocyanate (1.1 g, 6.5 mmol), 35% HCl (3.1 ml), KMnO4 (0.5 g), methyl isocyanate (0.38 ml, 6.5 mmol).

reactant | 4-Chlorophenyl isothiocyanate | 6.5 mmol, 1.1 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | HCl | 3.1 ml | Cl | ClH
reactant | KMnO4 | 0.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | methyl isocyanate | 6.5 mmol, 0.38 ml | CN=C=O | C2H3NO
product | 4-(4-Chlorophenyl)-2-methyl-1,2,4-thiadiazolidine-3,5-dione | ClC1=CC=C(C=C1)N1C(N(SC1=O)C)=O | C9H7ClN2O2S
